Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base / plastic surgical tape / lactose / dust/cats
 
Attending: ___.
 
Chief Complaint:
shortness of breath
Date of ICU Admission: ___ 
Reason for ICU Admission: s/p EKOS for submassive PE
 
Major Surgical or Invasive Procedure:
EKOS catheterization ___
Intubation 

 
History of Present Illness:
___ F with PMHx of HTN, obesity, presenting as a 
transfer
from ___ with bilateral submassive pulmonary emboli. 

Patient reports that over the course of the last 2 weeks she has
had increasing shortness of breath, chest pain with cough and
lower extremity edema, with acute worsening in the last three
days. She presented to her PCP with these symptoms who performed
LENIs and referred her to the ED after they were notable for L
sided popliteal and gastrocs DVT. No recent surgeries, travel, 
no
hx of smoking, estrogen replacement therapy. Patient does note
that she has a hx of L knee osteoarthritis which has been
progressively more painful, leading her to barely leave her
rocking chair in the last two weeks. No fevers, chills,
hemoptysis, syncopal episodes. 

On initial presentation to ___ she had an O2 sat of 67%
on room air. She was placed on a non-rebreather with improvement
in O2 sats to mid-90s. Underwent CTA which demonstrated 
bilateral
main pulmonary artery emboli with dilation of the right 
ventricle
with interventricular septal bowing on the CT and LENIs showing 
L
popliteal and gastrocs DVT. She was not hypotensive at any time.
She was started on heparin gtt and transferred here for further
management. 

In the ED,  
- Initial Vitals: T 97.4, HR 98, BP 125/73, RR 20, 95% NRB. 
While
in the ED BPs were 100s/50s, HRs ___,   
- Exam: mild tachypnea, tachycardia, lungs w/ crackles at bases
and expiratory wheezing, 3+ b/l ___  
- Labs:  
-- CBC WBC 9.8, Hgb 15.7 (Hct 52), plts 127
-- BMP K+ 7.1 (hemolyzed), HCO3 24 BUN/Cr ___
-- VBG 7.___
-- BNP 2961, negative troponins

Patient was evaluated by MASCOT and given submassive acute
bilateral pulmonary emobli with severe RH strain underwent EKOS
catheter placement prior to admission to MICU. 

On arrival to the MICU, patient reports that her breathing is
stable from prior, denies any pleuritic chest pain. Endorses hx
above. 

ROS: Positives as per HPI; otherwise full 10pt negative.  

 
Past Medical History:
HTN
HLD
Mild Intermittent Asthma
 
Social History:
___
Family History:
No family hx of PE/DVT
Parents lived to ___, ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: AF, HR ___, BP ___, RR 22 w/ SpO2 96% 
GEN: obese appearing woman, A&Ox3, in no acute distress.
HENNT: Wearing BiPAP. Bruising along L neck, RIJ central line 
and
EKOS catheter in place, some blood on dressing. 
CV: distant heart sounds, RRR, nl s1, s2
RESP: no accessory muscle usage, CTAB in anterior lung fields, 
no
wheezing 
GI: obese, non tender, normoactive bowel sounds  
MSK: significant 4+ lower extremity edema L >> R with venous
stasis changes. DP pulses palpable bilaterally.  
NEURO: A&Ox3, moving all four extremities spontaneously and
symmetrically  
PSYCH: normal affect

DISCHARGE EXAM
===========================
VS: reviewed in metavision 
GEN: Extubated and appropriate 
HENNT: intubated. bruising along R neck; RIJ CVL in place.
CV: distant heart sounds, mildly tachycardic, nl s1, s2
RESP: no accessory muscle usage, crackles at lung bases,
conducted upper airway sounds
MSK: significant lower extremity edema L > R with venous stasis
changes. 
NEURO: Following commands, in chair

 
Pertinent Results:
ADMISSION LABS
===============
___ 07:12PM BLOOD WBC-9.8 RBC-5.81* Hgb-15.7 Hct-52.4* 
MCV-90 MCH-27.0 MCHC-30.0* RDW-17.4* RDWSD-54.2* Plt ___
___ 07:12PM BLOOD Plt ___
___ 07:12PM BLOOD ___ PTT-150* ___
___ 11:30PM BLOOD ___ 07:12PM BLOOD Glucose-121* UreaN-27* Creat-1.2* Na-136 
K-7.1* Cl-97 HCO3-24 AnGap-15
___ 05:02AM BLOOD ALT-12 AST-18 AlkPhos-67 TotBili-1.7*
___ 07:12PM BLOOD CK-MB-3 proBNP-2961*
___ 07:12PM BLOOD cTropnT-<0.01
___ 05:02AM BLOOD cTropnT-0.01
___ 05:02AM BLOOD Albumin-3.4* Calcium-9.1 Phos-5.3* Mg-1.8
___ 02:58AM BLOOD TSH-0.27
___ 02:58AM BLOOD ___
___ 04:45PM BLOOD b2micro-2.8*
___ 07:17AM BLOOD Vanco-24.2*
___ 07:19PM BLOOD ___ pO2-36* pCO2-66* pH-7.31* 
calTCO2-35* Base XS-3
___ 02:58AM BLOOD freeCa-1.20

DISCHARGE LABS
===============
___ 02:32AM BLOOD WBC-7.9 RBC-3.75* Hgb-10.2* Hct-34.2 
MCV-91 MCH-27.2 MCHC-29.8* RDW-20.2* RDWSD-66.2* Plt ___
___ 02:32AM BLOOD ___ PTT-95.5* ___
___ 02:32AM BLOOD Glucose-131* UreaN-45* Creat-0.8 Na-131* 
K-3.8 Cl-85* HCO3-31 AnGap-15

OTHER RELEVANT LABS
===================
___ 04:45PM BLOOD ProtCFn-65* ProtSFn-79

IMAGING/STUDIES
================
CTA ___ ___
IMPRESSION:
1. Massive acute bilateral pulmonary emboli with severe
associated right heart strain. I discussed this with Dr. ___ issuing this report.
[Bilateral large central emboli in R and L main pulmonary
arteries extending into upper, lower and R middle lobes]

2. Indeterminate left lower lobe abnormality for which a CT PET
study should be considered for further assessment when the
patient is stable.

3. Small hypodense right hepatic lesion, incompletely
demonstrated at the inferior margin of the field-of-view but not
definitely change where demonstrated dating back to ___. With a
central density measurement of -1 Hounsfield units, is most
likely is a small cyst or other benign finding.

4. Likely benign left thyroid lesion.

LENIs ___ at ___
IMPRESSION: The examination is positive for deep venous
thrombosis in the left popliteal and gastrocnemius veins. 

___ CTA CHEST: 
1.  Limited examination secondary to bolus timing and streak 
artifact from the patient's breasts.  The clot burden appears 
mildly decreased since prior however.  Right heart strain is 
still appreciated as evidenced by leftward bowing of the 
intraventricular septum. 
2.  New bilateral consolidations, some of which may reflect 
pulmonary 
infarcts.  Superimposed infection would be hard to exclude 
however. 
3.  A hypodense nodule in the left lobe of the thyroid gland 
measures 3.1 cm.  Thyroid ultrasound may be performed when 
clinically appropriate. 

___ TTE:
CONCLUSION: There is no evidence for an atrial septal defect or 
right-to-left shunt on color Doppler or agitated saline at rest. 
Overall left ventricular systolic function is normal. Moderately 
dilated right ventricular cavity with mild global free wall 
hypokinesis. There is mild [1+] tricuspid regurgitation. There 
is SEVERE pulmonary artery systolic hypertension. Compared with 
the prior TTE (images reviewed) of ___ , the image 
quality is slightly improved; the right ventricle is more 
dilated and estimated PA systolic pressure is now increased (but
could reflect better measures due to image quality). There is no 
inter-atrial communication by saline contrast injection.

___ CT CHEST W/O CONTRAST:
1. Dense consolidations within the dependent portion of the 
upper and lower lobes bilaterally the have progressed compared 
to the CT dated ___, however evaluation for 
pulmonary infarction is limited without IV contrast.  Of note, 
the lung parenchyma was homogeneous enhancing on the CT dated ___, likely reflecting atelectasis, however underlying 
infection or infarction cannot be excluded on the current 
examination. 
2. Moderate right and small left pleural effusions, increased 
compared to 
prior. 
3. Multiple prominent mediastinal lymph nodes are likely 
reactive. 
4. Unchanged 3.1 cm hypodense nodule within the left lobe of the 
thyroid. 
  
RECOMMENDATION(S):   Thyroid nodule.  Ultrasound follow up 
recommended. 
___ College of Radiology guidelines recommend further 
evaluation for 
incidental thyroid nodules of 1.0 cm or larger in patients under 
age ___ or 1.5 cm in patients age ___ or ___, or with suspicious 
findings. 
  
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or invasion of local tissues by the thyroid nodule. 


___ TTE:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect or right-to-left shunt on color Doppler 
or agitated saline at rest. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional left ventricular systolic function. There is no 
resting left ventricular outflow tract gradient. Mildly dilated 
right ventricular cavity with depressed free wall
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
depressed. There is abnormal interventricular septal motion c/w 
right ventricular pressure and volume overload. The aortic sinus 
is mildly dilated with normal ascending aorta diameter for 
gender. There is a normal descending aorta diameter. The aortic 
valve leaflets (?#) are mildly thickened. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The pulmonic 
valve leaflets are not well seen. There is mild pulmonic valve 
stenosis. The tricuspid valve leaflets are mildly thickened. 
There is mild [1+] tricuspid regurgitation. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. Suboptimal image quality. Compared with the prior TTE 
(images reviewed) of ___, there is an elevated gradient 
across the pulmonic valve detected suggesting mild pulmonic or 
supravalvular stenosis.

 
Brief Hospital Course:
==================
SUMMARY STATEMENT:
==================
___ female with PMHx of obesity, presenting as a 
transfer from ___ with bilateral massive pulmonary 
emboli with severe RH strain s/p EKOS catheter-directed 
thrombolysis, prolonged hypoxemic/hypercarbic respiratory 
failure requiring intubation, course c/b ARDS, and S. Aureus 
VAP. 

=============
ACUTE ISSUES:  
============= 
# Massive PE with severe RH strain
Patient presented with bilaterally submassive PE, likely ___ 
obesity and immobility in setting of pain from knee 
osteoarthritis. Later found to be mildly protein C deficient 
which additionally likely contributed. Patient underwent EKOS 
directed thrombolysis on admission. Subsequently developed signs 

of obstructive shock (cool extremities, hypotension with 
increasing pressor requirement), concerning for evolution into 
massive PE. Patient ultimately required intubation due to 
worsening hypoxemic/hypercarbic respiratory failure. Repeat CTA 
showed mildly decreased clot burden despite respiratory failure. 

Patient was anticoagulated with heparin gtt throughout ICU 
course. She was intubated and initially required high fio2 and 
high PEEPs, but after a few weeks her ventilator settings 
improved and she was weaned to high flow. On discharge, she was 
on 5L oximizer and breathing comfortably. She was intermittently 
diuresed to improve her volume status, but given she had 
adequate urine output after stopping diuresis, was not 
discharged on a diuretic. Should monitor volume and respiratory 
status daily while at rehab and diurese as necessary.

 
#Acute hypoxemic/hypercarbic respiratory failure
#S.aureus VAP 
#ARDS
Following EKOS catheter directed thrombolysis, patient was noted 

to have worsening respiratory failure refractory to iNO, NIPPV, 
diuresis and was intubated ___. She developed imaging 
concerning for ARDS and sputum cx with MSSA c/f S. aureus VAP, 
for which she was treated. She had a course of cefazolin from 
___. Repeat CT on ___ showed significant 
dependent opacities. For ARDS managemnet, patient was ventilated 
with low tidal volumes, paralyzed, proned, treated with veletri, 
and diuresed aggressively with bumex. She was able to be 
extubated and was discharged on oximizer as above.
 
# Hypercalcemia
# Hyperphosphatemia: Thought to be in the setting of immobility. 
Should monitor these lab values while in rehab.

====================
TRANSITIONAL ISSUES:
====================
[] Antithrombin, FVL, Prothrombin
[] Follow up with protein C deficiency and hypercoagulable 
workup
[] Thyroid nodule on CT Chest, recommend US for follow-up
[] Follow up with Dr. ___ after discharge to 
have thromboembolic disease ___ need repeat TTE 
for this 
[] L>R pupil, has had CT non-con that was unremarkable 
[] PCP ___. E-mail PCP with 
major updates 
[] Hypercalcemia - suspect due to immobility, but should follow 
up these labs weekly
[] Home valsartan was held and can be re-started once PCP 
determined BPs stable to re-introduce.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 40 mg PO DAILY 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
3. Aspirin 81 mg PO DAILY 
4. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Apixaban 5 mg PO BID  
3.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
4.  Insulin SC 
      Sliding Scale

Fingerstick Q6H
Insulin SC Sliding Scale using HUM Insulin 
5.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
6.  Multivitamins W/minerals Chewable 1 TAB PO DAILY  
7.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
8.  Ramelteon 8 mg PO QHS:PRN insomnia  
9.  Aspirin 81 mg PO DAILY  
10.  Loratadine 10 mg PO DAILY  
11.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
12. HELD- Valsartan 40 mg PO DAILY  This medication was held. Do 
not restart Valsartan until your doctor tells you to ___ 
the medication.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==================
Massive pulmonary embolism

Secondary Diagnosis:
====================
Acute hypoxemic/hypercarbia respiratory failure
Staph aureus VAP
ARDS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure to care for you at the ___ 
___.  

Why did I come to the hospital?  
-  You came to the hospital because you had trouble breathing, 
chest pain, cough, and swelling of your legs and were found to 
have a blood clot in the blood vessels going to your lungs

What happened while I was in the hospital?  
- You were found to have low oxygen in your blood
- You had an echocardiogram (image of your heart) that showed 
strain on the right side of your heart
- You were started on a blood thinner and transferred to ___ 
for further management
- At ___, you were found to have a clotting disorder called 
protein C deficiency that could contribute to forming blood 
clots
- You had a procedure where a team of doctors ___ 
___ directly into the blood clot to help break up the 
clot
- You had a drop in your blood pressure and worsening ability to 
breath, so you had a breathing tube placed
- After a few weeks on the blood thinner and the ventilator with 
the breathing tube, you had the tube removed and you were sent 
to a rehab facility 

What should I do once I leave the hospital?  
- You should continue taking your medications prescribed 
including the apixaban 5mg twice daily to treat the blood clots
- Please go to your scheduled doctors ___
- ___ you have any questions or are not feeling well, please call 
your doctors ___ to the emergency room.

We wish you the best!  

Your ___ Care Team  

 
Followup Instructions:
___